US04558155
N-[2-(4-Chlorophenoxy)ethyl]-1-methylethanamine, Hydrochloride
Following the procedure of Preparation 11, 2-bromoethyl-4-chlorophenyl ether and isopropyl amine (excess) were reacted and the reaction mixture processed to give an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to give the hydrochloride salt, m.p. 162°-164° C. in 69.3% yield.

reactant | 2-bromoethyl-4-chlorophenyl ether | BrCCC1=C(C=CC(=C1)Cl)OC1=C(C=C(C=C1)Cl)CCBr | C16H14Br2Cl2O
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | N-[2-(4-Chlorophenoxy)ethyl]-1-methylethanamine, Hydrochloride | Cl.ClC1=CC=C(OCCNC(C)C)C=C1 | InChI=1S/C11H16ClNO.ClH/c1-9(2)13-7-8-14-11-5-3-10(12)4-6-11;/h3-6,9,13H,7-8H2,1-2H3;1H
